US09101616B2
Step-2: 3-(2,2,2-trifluoroethoxy)-5,6,7,8-tetrahydroquinoline
A mixture of 3-(2,2,2-trifluoroethoxy)quinoline (1.13 g, 5.0 mmol) and platinum (IV) oxide (50 mg) in TFA (8 mL) was stirred at room temperature for 12 hours under hydrogen atmosphere (1 atm). Then the mixture was filtered off through a pad of Celite, and the filtrate was concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with hexane/ethyl acetate (10:1-7:1) to give 495 mg (43% yield) of the title compound as a colorless oil:

reactant | 3-(2,2,2-trifluoroethoxy)quinoline | 5.0 mmol, 1.13 g | FC(COC=1C=NC2=CC=CC=C2C1)(F)F | C11H8F3NO
solvent | TFA | 8 mL | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | platinum (IV) oxide | 50 mg | [Pt](=O)=O
product | 3-(2,2,2-trifluoroethoxy)-5,6,7,8-tetrahydroquinoline | 495 mg, 43% yield | FC(COC=1C=NC=2CCCCC2C1)(F)F | C11H12F3NO
